US06313312B1
N-(3-{3-[3-(5-Fluoro-3-methyl-1H-indol-2-yl)propyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide
To a solution of N-(3-{3-[3-(5-fluoro-3-methyl-1H-indol-2-yl)propanoyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide (Preparation 128, 100 mg, 0.213 mmol) in anhydrous tetrahydrofuran (2.5 ml) under a nitrogen atmosphere at 0° C. was added dropwise lithium aluminium hydride (1.0M solution in tetrahydrofuran, 0.42 ml, 0.42 mmol) and the reaction mixture was stirred at room temperature overnight. The rapidly stirred reaction mixture was treated sequentially with water (0.45 ml), sodium hydrogen carbonate (450 mg) and ethyl acetate (10 ml). After 5 min, the reaction mixture was filtered and concentrated in vacuo to afford 95 mg of a colourless oil. This was purified by chromatography using a Biotage Flash 12™ cartridge packed with silica gel (8 g) eluting with hexane:ethyl acetate (100:0 to 0:100 over 30 min) then ethyl acetate methanol (100:0 to 0:100 over 15 min) to afford the title compound as a white foam (56 mg, 46%).

reactant | N-(3-{3-[3-(5-fluoro-3-methyl-1H-indol-2-yl)propanoyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 0.213 mmol, 100 mg | FC=1C=C2C(=C(NC2=CC1)CCC(=O)N1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C)C | C25H28FN3O3S
reactant | lithium aluminium hydride | 0.42 mmol, 1.0M, 0.42 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.45 ml | O | H2O
reactant | sodium hydrogen carbonate | 450 mg | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | N-(3-{3-[3-(5-Fluoro-3-methyl-1H-indol-2-yl)propyl]-6-methyl-3-azabicyclo[3.1.0]hex-6-yl}phenyl)methanesulfonamide | 95 mg | FC=1C=C2C(=C(NC2=CC1)CCCN1CC2C(C2C1)(C)C=1C=C(C=CC1)NS(=O)(=O)C)C | C25H30FN3O2S
